US04167581
A solution of 1-(2-cyanophenoxy)-2,3-epoxypropane (93.3 g.) in tetrahydrofuran (700 ml.) is added dropwise during 5 hours to stirred ethylenediamine (600 g.) and the mixture is stirred for a further 16 hours and then evaporated to dryness under reduced pressure. The residue is twice dissolved in water (500 ml.) and then evaporated to dryness, and then twice dissolved in toluene (500 ml.) and then evaporated to dryness. There is thus obtained as residue 1-(2-cyanophenoxy)-3-(β-aminoethylamino)-2-propanol.

reactant | 1-(2-cyanophenoxy)-2,3-epoxypropane | 93.3 g | C(#N)C1=C(OCC2CO2)C=CC=C1 | C10H9NO2
reactant | ethylenediamine | 600 g | C(CN)N | C2H8N2
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 1-(2-cyanophenoxy)-3-(β-aminoethylamino)-2-propanol | C(#N)C1=C(OCC(CNCCN)O)C=CC=C1 | C12H17N3O2
